US08629147B2
2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-7-methyl-3H-benzimidazole-5-carboxylic acid
To mixture of 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde (144 mg, 0.4 mmol) and 3,4-diamino-5-methyl-benzoic acid (82 mg, 0.5 mol) was added DMA (0.8 mL) and the resulting solution was stirred at 0° C. for 0.5 h, and at the room temperature for 2.5 h. After it was heated open to the air at 110° C. for 15 h, the reaction mixture was concentrated under reduced pressure and the residual crude was used for the next step reaction without purification. ESI-MS m/z 376.3 (MH+).

reactant | 2-hydroxy-5-(2-methoxy-pyridin-3-yl)-benzaldehyde | 0.4 mmol, 144 mg | OC1=C(C=O)C=C(C=C1)C=1C(=NC=CC1)OC | C13H11NO3
reactant | 3,4-diamino-5-methyl-benzoic acid | 0.5 mol, 82 mg | NC=1C=C(C(=O)O)C=C(C1N)C | C8H10N2O2
solvent | DMA | 0.8 mL | CC(=O)N(C)C | C4H9NO
product | 2-[2-Hydroxy-5-(2-methoxy-pyridin-3-yl)-phenyl]-7-methyl-3H-benzimidazole-5-carboxylic acid | OC1=C(C=C(C=C1)C=1C(=NC=CC1)OC)C=1NC2=C(N1)C(=CC(=C2)C(=O)O)C | C21H17N3O4
